US07994185B2
Step A: 2-fluoro-3-nitrobenzoic acid
Concentrated sulfuric acid (195 ml) was added carefully with stirring to a solution of 2-fluoro-3-nitrotoluene (100 g, 645 mmol) in acetic acid (1000 ml). The mixture was warmed up to 95° C. and the solution of chromium trioxide (226 g, 2.25 mol) in water (200 ml) was added dropwise with stirring over 2 h. After addition the mixture was heated with stirring for another 3 h, allowed to cool down to room temperature and poured into water (3 L). The mixture was extracted with ethyl acetate (3×1 L), the combined organic layers were dried over Na2SO4 and concentrated under reduced pressure to afford a light green solid, which was washed with dichloromethane (3×300 ml) and dried under vacuum to afford the title compound was obtained as a light yellow solid (75 g, 62.8%). 1H NMR (300 MHz, DMSO) δ ppm 8.27 (m, 1H), 8.15 (m, 1H), 7.48 (m, 1H).

reactant | sulfuric acid | 195 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-fluoro-3-nitrotoluene | 645 mmol, 100 g | FC1=C(C=CC=C1[N+](=O)[O-])C | C7H6FNO2
reactant | acetic acid | 1000 ml | C(C)(=O)O | C2H4O2
solvent | water | 200 ml | O | H2O
catalyst | chromium trioxide | 2.25 mol, 226 g | [O-2].[O-2].[O-2].[Cr+6]
solvent | water | 3 L | O | H2O
product | 2-fluoro-3-nitrobenzoic acid | FC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C7H4FNO4
